US08389520B2
3-(Dimethylamino)-2-[5-(trifluoromethyl)-1,3,4-thiadiazol-2-yl]acrylic acid methyl ester
3.05 g (13.5 mmol) 5-(trifluoromethyl)-1,3,4-thiadiazol-2-ylacetic acid ethyl ester [for preparation see DE 42 40 168-A1] are heated in 6.9 ml (40.5 mmol) dimethylformamide diethyl acetal overnight at 100° C. After cooling, the mixture is concentrated and the residue is purified by means of preparative HPLC (RP18 column; mobile phase: acetonitrile/water gradient).

reactant | 5-(trifluoromethyl)-1,3,4-thiadiazol-2-ylacetic acid ethyl ester | 13.5 mmol, 3.05 g | C(C)OC(CC=1SC(=NN1)C(F)(F)F)=O | C7H7F3N2O2S
reactant | dimethylformamide diethyl acetal | 40.5 mmol, 6.9 ml | C(C)OC(N(C)C)OCC | C7H17NO2
product | 3-(Dimethylamino)-2-[5-(trifluoromethyl)-1,3,4-thiadiazol-2-yl]acrylic acid methyl ester | COC(C(=CN(C)C)C=1SC(=NN1)C(F)(F)F)=O | C9H10F3N3O2S
